US08304036B2
A mixture of 10.0 g (38.7 mmol) of 2-bromotellurophene, 8.0 g (39.6 mmol) of 4-ethoxy-2,3-difluorophenylboronic acid, 3.5 g (3.0 mmol) of tetrakis-(triphenylphosphine)palladium(0) and 100 ml of 2 N sodium carbonate soln. in 200 ml of toluene/ethanol (1:1) is heated under reflux for 1.5 h. After cooling, the organic phase is separated off, and the aqueous phase is extracted with toluene. The combined organic phases are washed with sat. sodium hydrogencarbonate soln., 1 N hydrochloric acid and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The residue is purified by column chromatography (SiO2, n-heptane:toluene=3:2). Further purification is carried out by recrystallisation from ethanol; 2-(4-ethoxy-2,3-difluorophenyl)tellurophene is obtained as a yellow solid.

reactant | 2-bromotellurophene | 38.7 mmol, 10.0 g | BrC=1[Te]C=CC1 | C4H3BrTe
reactant | 4-ethoxy-2,3-difluorophenylboronic acid | 39.6 mmol, 8.0 g | C(C)OC1=C(C(=C(C=C1)B(O)O)F)F | C8H9BF2O3
reactant | sodium carbonate | 2 N, 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol | 200 ml | C1(=CC=CC=C1)C.C(C)O
product | 2-(4-ethoxy-2,3-difluorophenyl)tellurophene | C(C)OC1=C(C(=C(C=C1)C=1[Te]C=CC1)F)F | C12H10F2OTe
